US08563530B2
a) Preparation of (2S)-isopropyl 2-(((2,4-dichlorophenoxy)(phenoxy)phosphoryl)amino)propanoate diastereomeric mixture ((S, SP)-11 and (S, RP)-11)
Phenyl phosphorodichloridate (10.0 g, 47.4 mmol) was dissolved in 60 mL of dry DCM and subsequently cooled to −78° C. Slow addition of a preformed mixture of 2,4-dichlorophenol (7.73 g, 47.4 mmol) and triethylamine (7.27 mL, 52.1 mmol) in 20 mL of DCM was followed by stirring at above temperature for 30 min. The reaction was brought to 0° C. and stirred for 2.5 h at this temperature before (L)-alanine isopropyl ester (7.95 g, 47.4 mmol) was added as a solid in one batch. Stirring for 40 min at 0° C. was then followed by addition of more triethylamine (13.9 mL, 99.54 mmol) and additional stirring for 3 h at 0° C. or until judged complete by TLC (ethyl acetate/hexane=1/3). The reaction mixture was subsequently evaporated under reduced pressure and finally submitted to column chromatography (ethyl acetate in hexane) on silica gel to yield the product (mixture of two isomers) in 66% yield (13.6 g) as a viscous colorless oil.

reactant | Phenyl phosphorodichloridate | 47.4 mmol, 10.0 g | P(OC1=CC=CC=C1)(=O)(Cl)Cl | C6H5Cl2O2P
reactant | 2,4-dichlorophenol | 47.4 mmol, 7.73 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | triethylamine | 52.1 mmol, 7.27 mL | C(C)N(CC)CC | C6H15N
reactant | (L)-alanine isopropyl ester | 47.4 mmol, 7.95 g | C(C)(C)OC([C@@H](N)C)=O | C6H13NO2
reactant | triethylamine | 99.54 mmol, 13.9 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (2S)-isopropyl 2-(((2,4-dichlorophenoxy)(phenoxy)phosphoryl)amino)propanoate | 66% yield | ClC1=C(OP(=O)(OC2=CC=CC=C2)N[C@H](C(=O)OC(C)C)C)C=CC(=C1)Cl | C18H20Cl2NO5P
